US07390903B2
To a stirred solution of 0.130 g (0.465 mmol) (2-amino-5-phenyl-thiophen-3-yl)-phenyl-methanone in 7 ml acetic acid was added 62 mg (0.491 mmol) of 1-cyclopropyl-butane-1,3-dione and one drop of sulfuric acid. The mixture was then stirred at 110° C. for 20 minutes in a microwave and then concentrated in vacuo. Preparative HPLC (30% CH3CN/H20) afforded 29 mg (17%) cyclopropyl-(6-methyl-2,4-diphenyl-thieno[2,3-b]pyridin-5-yl)-methanone as a light yellow powder. ES-MS m/e (%): 370 (M+H+, 100).

reactant | (2-amino-5-phenyl-thiophen-3-yl)-phenyl-methanone | 0.465 mmol, 0.130 g | NC=1SC(=CC1C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C17H13NOS
reactant | 1-cyclopropyl-butane-1,3-dione | 0.491 mmol, 62 mg | C1(CC1)C(CC(C)=O)=O | C7H10O2
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | cyclopropyl-(6-methyl-2,4-diphenyl-thieno[2,3-b]pyridin-5-yl)-methanone | 29 mg, 17% | C1(CC1)C(=O)C=1C(=C2C(=NC1C)SC(=C2)C2=CC=CC=C2)C2=CC=CC=C2 | C24H19NOS
